US08252781B2
Preparation of 1-(2,5-dichlorobenzyl)-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one
2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one and 2,5-dichlorobenzyl bromide were used for a similar reaction and treatment as Process 6 of Example 1, and the title compound was obtained as a white crystalline powder.

reactant | 2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | 2,5-dichlorobenzyl bromide | ClC1=C(CBr)C=C(C=C1)Cl | C7H5BrCl2
product | 1-(2,5-dichlorobenzyl)-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one | ClC1=C(CN2N(C(C2(C)C)=O)C2C3CC4CC(CC2C4)C3)C=C(C=C1)Cl | C21H26Cl2N2O
